US07994326B2
Synthesis of ethyl 2-(3-fluorophenethylamino)acetate (VIII-3).
Ethyl bromoacetate (0.166 g, 0.11 mL, 0.001 mol) and 3-fluorophenethylamine (0.139 g, 0.13 mL, 0.001 mol) were stirred in MeOH (10 mL) for 48 h. The solvent was removed in vacuo, and the residue was purified by column chromatography (silica gel, hexanes:EtOAc=2:3) to generate VIII-3 (0.083 g, 37%).

reactant | Ethyl bromoacetate | 0.001 mol, 0.11 mL, 0.166 g | BrCC(=O)OCC | C4H7BrO2
reactant | 3-fluorophenethylamine | 0.001 mol, 0.13 mL, 0.139 g | FC=1C=C(CCN)C=CC1 | C8H10FN
solvent | MeOH | 10 mL | CO | CH4O
product | ethyl 2-(3-fluorophenethylamino)acetate | FC=1C=C(CCNCC(=O)OCC)C=CC1 | C12H16FNO2
